US08629147B2
5-(1,1-Difluoro-2-morpholin-4-yl-ethyl)-3-methyl-benzene-1,2-diamine
To a solution of 4-(1,1-difluoro-2-morpholin-4-yl-ethyl)-2-methyl-6-nitro-phenylamine (60 mg, 0.2 mmol) in THF (5 mL) was added Raney nickel (100 mg) and cyclohexadiene (0.5 mL). TLC indicated the formation of the product after the reaction mixture was stirred for 3.5 h). The reaction mixture was filtered over Celite and evaporated to afforded crude title product that was used for the next step reaction without purification.

reactant | 4-(1,1-difluoro-2-morpholin-4-yl-ethyl)-2-methyl-6-nitro-phenylamine | 0.2 mmol, 60 mg | FC(CN1CCOCC1)(F)C1=CC(=C(C(=C1)[N+](=O)[O-])N)C | C13H17F2N3O3
reactant | cyclohexadiene | 0.5 mL | C1=CC=CCC1 | C6H8
solvent | THF | 5 mL | C1CCOC1 | C4H8O
catalyst | Raney nickel | 100 mg | [Ni] | Ni
product | 5-(1,1-Difluoro-2-morpholin-4-yl-ethyl)-3-methyl-benzene-1,2-diamine | FC(CN1CCOCC1)(F)C1=CC(=C(C(=C1)N)N)C | C13H19F2N3O
